US03944560
By replacing the 7-nitro-3'-isopropyl-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidin-2'-one employed in Example 143, Step C, by an equivalent quantity of 7-dimethylamino-3'-isopropyl-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidin-2'-one and following substantially the same procedure described in Example 143, Step C, there is obtained 7-dimethylamino-3-isopropylaminomethyl-3-hydroxy-3,4-dihydro-2H-1,5-benzodioxepin.

reactant | 7-nitro-3'-isopropyl-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidin-2'-one | [N+](=O)([O-])C1=CC2=C(OCC3(CN(C(O3)=O)C(C)C)CO2)C=C1 | C14H16N2O6
reactant | 7-dimethylamino-3'-isopropyl-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidin-2'-one | CN(C1=CC2=C(OCC3(CN(C(O3)=O)C(C)C)CO2)C=C1)C | C16H22N2O4
product | 7-dimethylamino-3-isopropylaminomethyl-3-hydroxy-3,4-dihydro-2H-1,5-benzodioxepin | CN(C1=CC2=C(OCC(CO2)(O)CNC(C)C)C=C1)C | C15H24N2O3
